US05523465
Into an autoclave, were charged 295 parts of maleic anhydride, 570 parts of lauryl alcohol and 85 parts of toluene. The mixture was reacted at 60° C. for 5 hours under sealed condition, to obtain maleic acid monolauryl ester, containing 0.2% unreacted maleic anhydride. After adding to the mixture, 5 parts of sodium hydroxide, 275 parts of allyl chloride and 375 parts of triethyl amine, an atmosphere was substituted with nitrogen. The mixture was reacted at 80° C. for 8 hours, and cooled to a room temperature. The mixture was rinsed with 90 parts of 10% hydrochloric acid aqueous solution, followed by distillation of toluene under vacuum, to obtain 965 parts of lauryl allyl maleate of 98.6% purity and of Gardner Color 3. A molar ratio of maleic anhydride:lauryl alcohol was 1:1.02, and maleic acid monolauryl ester:allyl chloride:triethyl amine:formed water was 1:1.19:1.23:0.04.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | lauryl alcohol | C(CCCCCCCCCCC)O | C12H26O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | maleic acid monolauryl ester | C(CCCCCCCCCCC)OC(\C=C/C(=O)O)=O | C16H28O4
